* Schematics Netlist *



V_V1         $N_0001 0 DC 0V AC 40V 
C_C1         $N_0001 $N_0002  1n  
R_Ra         0 $N_0003  20.236k  
R_R4         0 $N_0004  20.177k  
C_C3         $N_0005 $N_0004  1n  
C_C2         $N_0006 $N_0005  1n  
E_U1         $N_0007 0 VALUE {LIMIT(V($N_0004,$N_0003)*1E6,-15V,+15V)}
R_Rb         $N_0003 $N_0007  30.443k  
R_R5         $N_0007 $N_0008  10k  
R_R7         0 $N_0008  7.33k  
R_R1         0 $N_0002  10k  
E_U2         $N_0006 0 VALUE {LIMIT(V($N_0002,$N_0006)*1E6,-15V,+15V)}
R_R2         $N_0005 $N_0007  20.177k  
